US06455550B1
Synthesis of N-[[1-(Phenylmethyl)cyclopentyl]carbonyl]-4-[(4-quinolinylcarbonyl)amino)-L-phenylalanine
A solution of 4-amino-N-[[1-(phenylmethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester (29.5 mg, 0.078 mmol), quinoline-4-carboxylic acid (17 mg, 0.10 mmol), and HBTU (38 mg, 0.10 mmol) in 1 mL of DMF was treated with diisopropylethylamine (30 μL, 0.17 mmol). The mixture was stirred over night and was diluted with 15 mL of ethyl acetate and 10 mL of ether and was washed with portions of water (2×10 mL), saturated NaHCO3 (10 mL) and was dried (MgSO4). Concentration gave 48 mg which was dissolved in 3 mL of methanol. Sodium hydroxide solution (0.10 mL, 4 N, 0.4 mmol) was added and the mixture was stirred for 2 hr. The excess base was quenched by addition of 0.1 mL of acetic acid, the solution was filtered through a 0.2μ nylon filter and the filtrate was purified by RP-HPLC on a 4×30 cm Rainin C-18 column using a gradient of 5 to 95% acetonitrile:water containing 0.75% trifluoroacetic acid at a flow of 49 mL/min over 30 min. The peak eluting at 74.5% acetonitrile was the acid N-[[1-(phenylmethyl)cyclopentyl]carbonyl-4-[(4-quinolinylcarbonyl)amino)-L-phenylalanine (15 mg), HR-FAB-MS: obs. mass 522.2393. Calcd. mass 522.2393 (M+H), the peak eluting at 83% acetonitrile was recovered N-[[1-(phenylmethyl)cyclopentyl]carbonyl]-4-[(4-quinolinylcarbonyl)amino]-L-phenylalanine methyl ester (15 mg), HR-FAB-MS: obs. mass 536.2556. Calcd. mass 536.2549 (M+H).

reactant | 4-amino-N-[[1-(phenylmethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester | 0.078 mmol, 29.5 mg | COC([C@@H](NC(=O)C1(CCCC1)CC1=CC=CC=C1)CC1=CC=C(C=C1)N)=O | C23H28N2O3
reactant | quinoline-4-carboxylic acid | 0.10 mmol, 17 mg | N1=CC=C(C2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | HBTU | 0.10 mmol, 38 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.17 mmol, 30 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Sodium hydroxide | 0.4 mmol, 4 N, 0.10 mL | [OH-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
solvent | ether | 10 mL | CCOCC | C4H10O
solvent | methanol | 3 mL | CO | CH4O
product | N-[[1-(Phenylmethyl)cyclopentyl]carbonyl]-4-[(4-quinolinylcarbonyl)amino)-L-phenylalanine | C1(=CC=CC=C1)CC1(CCCC1)C(=O)N[C@@H](CC1=CC=C(C=C1)NC(=O)C1=CC=NC2=CC=CC=C12)C(=O)O | C32H31N3O4
